Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
"It's been snowballing"
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note:

Ms. ___ is a ___ woman with history of MDD, 
presenting with increased depression and suicidal ideation 
without plan. 

Ms. ___ states that the past week has been increasingly 
stressful. She was in a minor car accident on ___, and 
subsequently found out about pending potential legal charges. 
She also finds this time of year difficult as her mother's 
birthday was in ___ and she passed away in ___ of breast 
cancer in ___. Patient endorses current hopelessness, 
guilt, helplessness, and worthlessness. Endorses fatigue and 
increased sleep, up to 12 hours/day, nonrestorative. Some 
difficulty with memory (chronic) and concentration at work, 
leading to procrastination. Symptoms have been building up over 
the past week and she has been unable to manage her guilt of 
burdening others.

Today, felt overwhelmed not sharing her mental struggles with 
boyfriend. Boyfriend had encouraged her to make an appointment 
to see Dr. ___ he is currently out of town, and she was 
redirected to the emergent pager line. After speaking with Dr. 
___ was advised to present to the emergency room. 

Patient denies any active suicidal ideation, but agrees with 
statements that she would be better off dead, or would be happy 
if she did not wake up. Denies researching any suicidal plan, 
and denies prior suicide attempts. When asked what keeps her 
going, she replies the pain that she would because the people 
close to her, citing her siblings and boyfriend."

COLLATERAL REVIEW OF SYSTEMS: Psychiatric: See HPI. Denies 
symptoms of psychosis or mania. Patient reports neuropsych 
testing revealing anxiety and OCD tendencies. Denies 
compulsions. Denies HI. - Endorses generalized worry, 
rumination. Recent panic attack last week, with shortness of 
breath lightheadedness lasting less than 30 minutes, relieved 
with lying down. -Intentional weight loss. Denies history of 
restricting, purging, or binging. General: A 10 point ROS 
negative except for: Dry throat, headache, chronic reflux, 
constipation/diarrhea related to food sensitivities

#Per triage, nursing notes, patient with significant history of 
depression, stating "I don't want to be here anymore," denied 
specific plan. Recent car accident and other stressors. Tearful. 
On Zoloft and Wellbutrin. 

#Therapist, ___ ___: Called and left voicemail 
with page-back instructions. Collateral: ___, therapist 
paged back. Work line. ___. Was doing better, reduced 
over ___ to every other week from weekly visits. Seems close 
to boyfriend and sister. Came in after car accident, concerned 
about legality about what she could disclose. Blew out of 
proportion, worried she would go to jail. A bit of a puzzle, 
presents tired, sighing. Had a neuropsych work-up, gets stuck on 
things, which has been difficult to work through. Trouble moving 
on from thoughts. Can be help-rejecting at times. Not suicidal 
in the time that she's been seen by therapist. In ___ PhD program, 
dropped out after conflict with PI. Now has conflict with 
someone at work. Difficulty sticking with things long-term. 
Interpersonal issues, difficulty to let go of things. Seems to 
have social supports. Boyfriend brought her in, close with her 
cats. Patient has a hard time processing her feelings, can be 
angry with her family. Worried about confidentiality regarding 
the accidents. Requesting update with dispo. Wouldn't have 
guessed that this patient would be in crisis. Wondering if 
there's something she's getting stuck on with the car, though 
she does have some mood symptoms.

#Psychiatrist, ___, ___, directed to pager; 
___: Paged to resident room. Seen for medication 
management for a number of years. Came for grad school, 
previously with history of 1 psychiatric hospitalization after 
the death of her mother. ___ is a difficult month for her 
with the anniversary of her mother's death. Seen prior to 
vacation, doing okay. Called this afternoon, didn't want to be 
here, felt overwhelmed, unclear precipitant. High functioning. 
Times of depression that interfered with function in grad 
school, but doing okay in job. Tendency to ruminate. Amenable to 
plan for partial versus evening IOP.

#Boyfriend, ___ ___. ___ privately. Patient 
and boyfriend have been dating for ___ years, met in graduate 
school at ___. He has never been concerned about her safety until 
today, because she was making statements about not wanting to be 
here. He denies ever hearing suicidal statements, but patient 
often says that she is tired, weak or has no energy to do 
activities. Patient can become tearful when thinking about 
stressors, but has not seen her emotionally labile or with any 
medication side effects that he knows of. Denies any active 
substance use or drinking. He believes that she has been under a 
lot of pressure with her accident but wonders if she is wearing 
out of proportion as everything seems to be under control 
regarding next steps for insurance and the lawyers. No recent 
conflicts or fights. Can have disagreements typically over 
miscommunications as he is ESL. He believes she is very stressed 
about being annoyed with work but also worrying about finances 
and her ability to pay for rent, her lawyer, and has expressed 
avoiding making mental health appointments because of finances. 
.
.
.
In the ED, no acute behavioral events. Received home sertraline, 
buproprion SR 100mg QAM, and 1mg Ativan PRN. Tachy on arrival 
though normalized. Reported to triage "thinking about how you 
might kill yourself; YES" and YES to intent question. +U/A for 
bacteria, leuko, WBC's, though +Epitheial cells. Culture 
pending. Continued on Macrobid ___ BID for presumed acute 
uncomplicated cystitis. S/p 8 doses of 10. 
.
.
.
On interview today, Ms. ___ reports increasing thoughts about 
"things that are normally not important" over the last several 
weeks. She reports that while she used to worry/think about 
these small things 1% of the time, over the past three weeks 
this has increased to 25% and then over the last week, 50% of 
her time. She states that it has "snowballed" in the setting of 
"too many things". These multiple stressors include lack of 
enjoyment of her job and increased stress at work and a recent 
car accident with pending legal fees. She reports she feels like 
good things do not happen and that for the past week she has had 
thoughts that she may be better off dead. She denies any active 
plan but has been thinking frequently of "accidents" that could 
potentially end her life. She denies any purposeful steps/ 
action but rather thinks of death as an escape. She reports 
feeling guilt, worthless, hopeless with fatigue, decreased 
energy, poor sleep, and issues with memory and concentration. 
The anxiety has been particularly troublesome over the last week 
and has "caused" the depression.

She reports her current medication regimen has not been changed 
in over a year. Wellbutrin was the most recent adjustment one 
year ago and denies increased anxiety with the start of this 
medication. She reports neuropsych testing in ___. She reports 
that it was a full day of testing that was not particularly 
helpful as it did not clarify her diagnosis. She reports "I 
break every test, I do not fit in a box." 
.
.
.
REVIEW OF SYSTEMS: 
-Psychiatric: DENIES erratic/risky behavior, flight of ideas, 
increased activity, decreased need for sleep, or 
talkativeness/pressured speech.

 -General: DENIES current dysuria, increased urinary frequency, 
hematuria (previously reported urinary symptoms with hematuria 
on ___ and was given a prescription for MacroBID). 
 
Past Medical History:
Per Dr. ___ ___ ED Initial Psychiatry Consult note with
revision/supplementation as provided per history at time of
admission to unit.

PAST PSYCHIATRIC HISTORY:
- Prior diagnoses: depression, anxiety
- Hospitalizations: patient denied; Dr. ___ inpatient 
after mother's death in ___, patient denied prior admission 
upon attempting to confirm this information. 
- Partial hospitalizations: Denies
- Psychiatrist: ___, MD
- Therapist: ___
- Medication trials: lamotrigine (ineffective), Prozac 
(ineffective)
- ___ trials: None
- Suicide attempts: Denies
- Self-injurious behavior: denies
- Harm to others: denies
- Trauma: Denies
- Access to weapons: Denies

PAST MEDICAL HISTORY:
Migraines
Ovarian cyst

MEDICATIONS including vitamins, herbs, supplements, OTC:
sertraline 100mg po qday (filled ___, 90 tab, ___
buproprion SR 100mg po qday (filled ___ for 90 tabs and 5
tabs, ___

lorazepam 1mg po qday PRN (filled ___ for 90 tabs, ___
currently taking multiple times per week, denies daily use 

lamotrigine 25mg po every other day (filled ___, 30 tabs,
___ discontinued last couple of months

ALLERGIES:
Allergies  (Last Verified ___ by ___.):
ibuprofen                                                        


 SUBSTANCE ABUSE HISTORY:
- Alcohol: Last used several months ago, only social
- Tobacco: Denies
- Marijuana: Denies
- Opiates: Denies
- Benzos: Denies outside of prescription
- Cocaine: Denies
- Other Drugs: Denies

FORENSIC HISTORY:
- Arrests: Denies
- Convictions and jail terms: Denies
- Current status (pending charges, probation, parole): No formal 
charges, patient is concerned about recent car accident and 
potential hit-and-run charge

 
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
- Psychiatric Diagnoses: Paternal aunt with OCD.  Maternal 
cousin with bipolar disorder versus borderline.
- Suicide Attempts/Completed Suicides: Cousin attempted suicide
- ___ Use Disorders: Denies
 
Physical Exam:
EXAM: General: -HEENT: Normocephalic, atraumatic. Moist mucous 
membranes, oropharynx clear. No scleral icterus, 
-Cardiovascular: Regular rate and rhythm, normal S1,S2, no 
murmurs/rubs/gallops. -Pulmonary: No increased work of 
breathing. Lungs clear to auscultation bilaterally. No 
wheezes/rhonchi/rales. -Abdominal: Non-distended, bowel sounds 
normoactive. -Extremities: Warm and well-perfused. No edema of 
the limbs. -Skin: No rashes or lesions noted.

Neurological: -Cranial Nerves: ---I: Olfaction not tested. 
---II: pupils 3mm, equal, round ---III, IV, VI: EOMI without 
nystagmus ---V: Masseter ___ bilaterally ---VII: nasolabial 
folds symmetric bilaterally ---VIII: Hearing intact to finger 
rub bilaterally ---IX, X: Palate elevates symmetrically ---XI: 
trapezii ___ symmetric bilaterally ---XII: Tongue protrudes 
midline -Motor: Normal bulk and tone bilaterally. Strength ___ 
in deltoids, biceps, triceps, quadriceps, hamstrings, -Sensory: 
deferred -DTRs: deferred, ___: Normal on finger to nose 
test, no intention tremor noted -Gait: Good initiation. 
Narrow-based, normal stride and arm swing. 

Absence of resting tremor, absence of action tremor

Cognition: -Wakefulness/alertness: Awake and alert -Attention: 
ORANGE backwards w/ 0 errors -Orientation: ___, ___, -Executive function (go-no go, Luria, trails, FAS): 
absence of ideomotor apraxia: able to brush teeth, comb hair 
Luria 3 step intact -Memory: intact Violet, Church, Honesty 
after 5 minutes -Fund of knowledge: Consistent with education; 5 
___ plays -Calculations: 7 quarters = "$1.75" 
-Abstraction: tongue is the enemy of the neck = "say something 
stupid and you might get your head cut off." -Visuospatial: L 
thumb to R. ear -Language: Native ___ speaker, no paraphasic 
errors, appropriate to conversation

Mental Status: -Appearance/Behavior: female appearing stated age 
in hospital gown, no psychomotor agitation or retardation, good 
eye contact -Attitude: Cooperative, engaged, friendly -Mood: 
"flat" -Affect: Mood-congruent, constricted, reactive, 
appropriate to situation, tearful at times, easily overwhelmed 
-Speech: Normal rate, volume, and tone -Thought process: Linear, 
coherent, goal-oriented, no loose associations -Thought Content: 
---Safety: +passive SI ---Delusions: No evidence of paranoia, 
etc. ---Obsessions/Compulsions: No evidence based on current 
encounter ---Hallucinations: Denies AVH, not appearing to be 
attending to internal stimuli -Insight: fair -Judgment: fair 
 
Pertinent Results:
___ 01:52PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG

___ 01:43PM   WBC-7.2 RBC-4.36 HGB-13.2 HCT-39.7 MCV-91 
MCH-30.3 MCHC-33.2 RDW-12.3 RDWSD-41.4

___ 01:43PM   NEUTS-62.5 ___ MONOS-5.7 EOS-1.0 
BASOS-0.7 IM ___ AbsNeut-4.49 AbsLymp-2.16 AbsMono-0.41 
AbsEos-0.07 AbsBaso-0.05

___ 01:43PM   GLUCOSE-88 UREA N-8 CREAT-0.8 SODIUM-141 
POTASSIUM-4.1 CHLORIDE-101 TOTAL CO2-23 ANION GAP-17

___ 01:52PM URINE  UCG-NEGATIVE
 
Brief Hospital Course:
LEGAL & SAFETY: On admission, the patient signed a conditional 
voluntary agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

PSYCHIATRIC: 
Ms. ___ on arrival to the unit endorsed multiple 
neurovegetative symptoms and increasing ruminative thoughts 
resulting in feeling trapped, hopeless, with increasing 
ego-syntonic passive suicidal ideation. This was in response to 
multiple recent stressors, including the anniversary of her 
mother's death from breast cancer, her sister's recent biopsy 
for breast cancer, increasing stress and perceived failure at 
work, and a car accident with a resulting investigation/pending 
lawsuit. On arrival to the unit patient appeared significantly 
anxious, stressed, and easily overwhelmed. Her affect was 
dysphoric and labile, though reactive. She endorsed suicidal 
ideation of a passive nature without active plan. Her insight 
was limited to fair and her judgment was limited given help 
seeking behavior though difficulty making decisions secondary to 
significant rumination and worry. 

Diagnostically, patient's presentation appears most consistent 
with major depression, recurrent complicated by acute 
exacerbation of chronic generalized anxiety disorder.  
Collateral information supports initial evaluation suggesting 
that patient has significant but nonspecific anxious features. 
Per neuropsychological testing, patient does not meet specific 
criteria for ADHD, OCD, autism type features but based on 
performance and personality inventory, has a number of 
components suggesting an anxiety and depressive disorders. 

We provided supportive, cognitive behavioral, and psychodynamic 
based interviewing techniques. Occupational therapy provided 
worksheets and interviews targeting cognitive restructuring. 
Patient engaged in mindfulness and coping based group therapy. 
We gradually increased patient's sertraline to 200mg PO daily 
and adjusted Wellbutrin to XL formulation for sustained mood 
coverage and improve energy in the morning. With therapeutic 
interventions patient endorsed a decrease in frequency and 
severity of passive suicidal thoughts. She reported resolution 
of hopelessness and demonstrated future orientation. On mental 
status exam, lability resolved, affect was less dysphoric and 
there was a decrease in ruminative thinking and catastrophizing. 
She demonstrated fair insight and good judgment prior to 
discharge. 

Future interventions include continued treatment and outpatient 
monitoring given recent uptitration of antidepressants by 
patient's psychiatrist, therapist, and primary care provider. 
Patient expressed ongoing interest in cognitive behavioral type 
therapy technique by patients outpatient therapist or referral 
to a new provider specializing in this technique. We provided 
her with several CBT resources in the local community as well as 
discussing the idea of starting a long-term outpatient group 
after her acute treatment.  She will step down from his 
admission to the ___ Program and we 
suggested she step down to IOP afterwards for a smooth 
transition back to the community.  

MEDICAL
#Acute uncomplicated urinary tract infection
OP treater started Macrobid in setting of urinary symptoms on 
___. ED provided Macrobid ___ BID. We continued to 
complete 5 day course.
 
PSYCHOSOCIAL:
#GROUPS/MILIEU: The patient was encouraged to participate in the 
various groups and milieu therapy opportunities offered by the 
unit. She attended all groups on the unit with full 
participation. She was visible, social and helpful to fellow 
patients.

#COLLATERAL CONTACTS & FAMILY INVOLVEMENT #INTERVENTIONS 
- Medications: sertraline 200, Wellbutrin XR 150mg. 
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy, CBT, supportive interviewing. 
- Coordination of aftercare: Therapist, psychiatrist, PHP
- Behavioral Interventions: educated and practiced CBT

RISK ASSESSMENT & PROGNOSIS:
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
hopelessness, feeling trapped, suicidal ideation (passive). Her 
static and modifiable factors noted at that time included 
chronic mental illness, Caucasian ethnicity, suicidal ideation 
without intent/plan, social withdrawal, hopelessness, severe 
anxiety, insomnia, lack of purpose, feeling trapped, decreased 
self-esteem, loss of executive function, thought constriction, 
polarized thinking, closed mindedness, stressful events, limited 
coping skills. We provided supportive and CBT type therapy, 
coordinated with social work for assistance with paid-leave from 
work and appropriate follow up with outpatient providers, and 
adjusted medications.  Finally, the patient is being discharged 
with many protective risk factors help-seeking nature, 
future-oriented viewpoint, sense of responsibility to 
family(sister), life satisfaction, reality testing ability, fair 
coping skills, good problem-solving skills, positive therapeutic 
relationship with outpatient providers, lack of suicidal 
ideation, no history of substance use disorder, and strong 
social supports. Overall, based on the totality of our 
assessment at this time, the patient is not at an acutely 
elevated risk of self-harm nor danger to others.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sertraline 100 mg PO DAILY 
2. BuPROPion (Sustained Release) 100 mg PO QAM 
3. Nitrofurantoin Monohyd (MacroBID) 100 mg PO BID 
4. LORazepam 0.5 mg PO BID:PRN anxiety/insomnia 

 
Discharge Medications:
1.  BuPROPion XL (Once Daily) 150 mg PO DAILY 
RX *bupropion HCl 150 mg 1 tablet(s) by mouth once a day Disp 
#*15 Tablet Refills:*0 
2.  Sertraline 200 mg PO DAILY 
RX *sertraline 100 mg 2 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  LORazepam 0.5 mg PO BID:PRN anxiety/insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major Depressive Disorder
Generalized Anxiety Disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___